US06939885B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(2-methylsulfanyl-pyridine-4-carbonyl)-phenyl]-benzenesulfonamide
4-tert-Butyl-N-[4-chloro-2-(2-chloro-pyridine-4-carbonyl)-phenyl]-benzenesulfonamide (475 mg, 1.0 mmol) was dissolved in 10 mL dry THF and treated with solid sodium thiomethoxide (355 mg, 5 mmol) and the mixture heated at 70° C. for 16 h. The solvent was concentrated to about 2 mL and added to 5 mL cold 1M HCl. The light yellow solid precipitate was collected by filtration and product was purified by HPLC. 1H-NMR (400 MHz, CDCl3): δ 1.26 (s, 9H), 2.61 (s, 3H), 6.86 (d, 1H, J=5.2 Hz), 7.18 (s, 1H), 7.28 (d, 1H, J=2.4 Hz), 7.39 (d, 2H, J=8.8 Hz), 7.51 (dd, 1H, J=8.8 Hz, 2.4 Hz), 7.67 (m, 2H), 7.76 (d, 1H, J=8.8 Hz), 8.56 (d, 1H, J=5.2 Hz), 10.13 (s, 1H). MS: m/z 476.1 (M++1).

reactant | 4-tert-Butyl-N-[4-chloro-2-(2-chloro-pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | 1.0 mmol, 475 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)Cl | C22H20Cl2N2O3S
reactant | sodium thiomethoxide | 5 mmol, 355 mg | C[S-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-tert-Butyl-N-[4-chloro-2-(2-methylsulfanyl-pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)SC | C23H23ClN2O3S2
